US04482723
2-Chloro-1-t-butylthio-1-buten-3-one
To a mixture of 20.85 g (0.15 mole) 1,2-dichloro-1-buten-3-one and 13.53 g (0.15 mole) t-butylmercaptan in 300 ml ethyl ether, cooled to 5° C. is added dropwise 15.18 g (0.15 mole) triethylamine in 50 ml ether. After stirring at room temperature for 18 hours the mixture is heated at reflux for 2 days. The resulting mixture is washed with water, brine and the organic layer dried over magnesium sulfate. Evaporation of ether affords a brown oil which is distilled in vacuo to yield 17.56 g of product as a light yellow liquid, B.P. 75° (0.1 mm) which crystallized upon standing, M.P. 73° C. Mass spectrum (m/e) 192 (molecular ion), 138, 136.

reactant | 1,2-dichloro-1-buten-3-one | 0.15 mole, 20.85 g | ClC=C(C(C)=O)Cl | C4H4Cl2O
reactant | t-butylmercaptan | 0.15 mole, 13.53 g | C(C)(C)(C)S | C4H10S
reactant | triethylamine | 0.15 mole, 15.18 g | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-Chloro-1-t-butylthio-1-buten-3-one | 17.56 g | ClC(=CSC(C)(C)C)C(C)=O | C8H13ClOS
